US07691861B2
Preparation of (2-Chloro-6-dimethylaminomethyl-naphthalen-1-yl)-acetic acid
(2-Chloro-6-dimethylaminomethyl-naphthalen-1-yl)-acetic acid ethyl ester (223 mg, 0.73 mmol) is dissolved in dioxane (2.6 ml). Water (0.96 ml) and lithium hydroxide (21 mg, 0.88 mmol) are then added, and the reaction mixture is warmed to 60° C. for 4 h. HPLC analysis indicates complete conversion of starting material. The reaction is diluted with water, adjusted to pH 6-7 by addition of 1 M aqueous NaHSO4, and extracted with EtOAc. The water layer is then concentrated, and the solid residue is repeatedly extracted with MeOH to yield pure title compound. ES+-MS: 278.3, 280.1 [M+H]+.

reactant | (2-Chloro-6-dimethylaminomethyl-naphthalen-1-yl)-acetic acid ethyl ester | 0.73 mmol, 223 mg | C(C)OC(CC1=C(C=CC2=CC(=CC=C12)CN(C)C)Cl)=O | C17H20ClNO2
reactant | lithium hydroxide | 0.88 mmol, 21 mg | [OH-].[Li+]
reactant | NaHSO4 | 1 M | OS(=O)(=O)[O-].[Na+]
solvent | dioxane | 2.6 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | Water | 0.96 ml | O | H2O
product | (2-Chloro-6-dimethylaminomethyl-naphthalen-1-yl)-acetic acid | ClC1=C(C2=CC=C(C=C2C=C1)CN(C)C)CC(=O)O | C15H16ClNO2
